US03948949
3.03 g. of 2-(1-bromo-2-propyl)-xanthene is reacted with 0.26 g. of Mg filings in 100 ml. of ether. The mixture is cooled to -5°, oxygen is introduced for 4 hours, and the mixture is combined with aqueous NH4Cl solution. The usual working-up step yields 2-(2-xanthenyl)-propanol, m.p. 86°-89°.

reactant | 2-(1-bromo-2-propyl)-xanthene | BrCC(C)C1=CC=2CC3=CC=CC=C3OC2C=C1 | C16H15BrO
reactant | oxygen | O=O | O2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | ether | CCOCC | C4H10O
product | 2-(2-xanthenyl)-propanol | C1=C(C=CC=2OC3=CC=CC=C3CC12)C(CO)C | C16H16O2
